US05324451
Twenty grams of ethyl (S)-lactate, 45.0 g of propyl iodide, and 30.0 g of silver oxide were stirred in 100 ml of dimethylformamide for 40 hours. Any insoluble matter was removed by filtration, and water was added to the filtrate. The filtrate was extracted three times with hexane. The hexane layer was dehydrated, and the organic solvent was removed therefrom by distillation under reduced pressure to obtain 20.0 g of ethyl (S)-2-propoxypropionate (b.p.=78° C./50 mmHg). Eighteen grams of the product was stirred in 100 ml of a 5N sodium hydroxide aqueous solution for 6 hours, and adjusted to a pH of 3 to 4 with dilute sulfuric acid under ice-cooling. The reaction mixture was extracted with diethyl ether several times, and the extract was dehydrated and distilled to remove the diethyl ether to obtain 10.2 g of (S)-2-propoxypropionic acid. To the whole quantity of the product were added 20 ml of thionyl chloride and 0.5 ml of pyridine, followed by stirring at reflux for 2 hours. The excess thionyl chloride was removed from the reaction mixture by distillation under reduced pressure. The residue was dissolved in benzene, and any insoluble matter was separated by filtration. The benzene was removed from the filtrate by distillation to obtain 10.5 g of (S)-2-propoxypropanoyl chloride as an oily substance.

reactant | ethyl (S)-lactate | Twenty grams | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | propyl iodide | 45.0 g | C(CC)I | C3H7I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | silver oxide | 30.0 g | [Ag]=O
product | ethyl (S)-2-propoxypropionate | 20.0 g | C(CC)O[C@H](C(=O)OCC)C | C8H16O3
